US07419988B2
2-iodo-4-[1-methyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine
To a solution of ICl (1M in CH2Cl2, 43.3 mmol) in acetonitrile (250 ml) at −10° C. was added a solution of 4-[1-methyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-2-(trimethylsilyl)-1H-pyrrolo[2,3-b]pyridine (8.67 mmol) in acetonitrile (46 ml) followed by stirring at −10° C. for 5 minutes. The reaction was concentrated to approx. ⅓ total volume and then diluted with EtOAc (500 ml). The solution was washed with saturated NaHCO3(aq) (100 ml), saturated Na2S2O3(aq) (100 ml), brine (100 ml), and dried over MgSO4. Filtration and concentration in vacuo yielded a tan solid which was triturated with hot acetonitrile/Et2O, providing the title product as a light tan solid (53%). ESMS [M+H]+: 586.0.

reactant | ICl | 43.3 mmol, 1M | ICl | ClI
reactant | 4-[1-methyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-2-(trimethylsilyl)-1H-pyrrolo[2,3-b]pyridine | 8.67 mmol | CN1N=C(C(=C1)C1=C2C(=NC=C1)N(C(=C2)[Si](C)(C)C)S(=O)(=O)C2=CC=CC=C2)C2=CC=C(C=C2)[N+](=O)[O-] | C26H25N5O4SSi
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
solvent | acetonitrile | 46 ml | C(C)#N | C2H3N
product | 2-iodo-4-[1-methyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine | 53% | IC1=CC=2C(=NC=CC2C=2C(=NN(C2)C)C2=CC=C(C=C2)[N+](=O)[O-])N1S(=O)(=O)C1=CC=CC=C1 | C23H16IN5O4S
